US06407102B1
4,39-Dimethyl-1,4,14,29,39,42-hexaazaoctacyclo-[40.2.2.0(2,6).0(7,15).0(8,13).0(28,36).0(30,35).0(37,41)]hexatetraconta-2(6),7(15),8(13),9,11,28(36),30(35),31,33,37(41)-decaen-3,5,38,40-tetraone
0.75 mmol of 3-bromo-4-(2-(12-(3-(4-bromo-1-methyl-2,5-dioxo-2,5-dihydro-1H-3-pyrrolyl)-1H-2-indolyl)dodecyl)-1H-3-indolyl)-1-methyl-2,5-dihydro-1H-pyrrole-2,5-dione is dissolved in 200 ml of absol. DMF, treated with 0.5 ml of abs. NEt3 and heated to 80° C. The solution of 0.75 mmol of piperazine in 100 ml of absol. DMF and 0.5 ml of NEt3 is then slowly added dropwise to the warm solution and the mixture is then stirred at 80° C. for 48 h. The solvent is then removed in vacuo to the greatest possible extent and the residue is treated with 100 ml of 1N HCl. This solution is then extracted with ethyl acetate (in total about 600 ml), the combined extracts are dried over Na2SO4 and the solvent is stripped off in vacuo. Purification is carried out by column chromatography (SiO2, CH2Cl2/EA9.5:0.5) orange crystals, yield: 0.267 g (52%).

reactant | 3-bromo-4-(2-(12-(3-(4-bromo-1-methyl-2,5-dioxo-2,5-dihydro-1H-3-pyrrolyl)-1H-2-indolyl)dodecyl)-1H-3-indolyl)-1-methyl-2,5-dihydro-1H-pyrrole-2,5-dione | 0.75 mmol | BrC=1C(N(C(C1C1=C(NC2=CC=CC=C12)CCCCCCCCCCCCC=1NC2=CC=CC=C2C1C=1C(N(C(C1Br)=O)C)=O)=O)C)=O | C38H40Br2N4O4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | piperazine | 0.75 mmol | N1CCNCC1 | C4H10N2
solvent | NEt3 | 0.5 ml | CCN(CC)CC | C6H15N
product | 4,39-Dimethyl-1,4,14,29,39,42-hexaazaoctacyclo-[40.2.2.0(2,6).0(7,15).0(8,13).0(28,36).0(30,35).0(37,41)]hexatetraconta-2(6),7(15),8(13),9,11,28(36),30(35),31,33,37(41)-decaen-3,5,38,40-tetraone | CN1C(C=2N3CCN(C=4C(N(C(C4C=4C=5C=CC=CC5NC4CCCCCCCCCCCCC=4NC=5C=CC=CC5C4C2C1=O)=O)C)=O)CC3)=O | C42H48N6O4
